US07566728B2
(RS)-1-[1-(acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-3-methyl-2H-benzoimidazole-2-thione
(RS)-1-[1-(Acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzoimidazole-2-thione (1 g, 2.6 mmol) was dissolved in DMF (15 ml) and sodium hydride (120 mg, 60%) was added. The suspension was stirred at 50° C. for 30 min. After cooling to room temperature, methyl iodide (0.4 g, 2.8 mmol) was added and the mixture was stirred for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated aqueous ammonium chloride solution, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (1.05 g) as pale-yellow crystals.

reactant | (RS)-1-[1-(Acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzoimidazole-2-thione | 2.6 mmol, 1 g | C1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(NC3=C2C=CC=C3)=S | C24H23N3S
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | methyl iodide | 2.8 mmol, 0.4 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (RS)-1-[1-(acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-3-methyl-2H-benzoimidazole-2-thione | 1.05 g | C1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(N(C3=C2C=CC=C3)C)=S | C25H25N3S
